US07102000B2
N-(3-hydroxy-4-methyl-phenyl)-isobutyramide (6.48 g, 33.5 mmol) was dissolved in 40 mL of acetone, potassium carbonate (13.9 g, 100.5 mmol) was added followed by methyl iodide (14.3 g, 100.5 mmol). The mixture was stirred at room temperature for about 3 days. The solution was filtered and evaporated under reduced pressure to give 6.6 g of N-(3-methoxy-4-methyl-phenyl)-isobutyramide (95%). 1H NMR (300 MHz, CDCl3, ppm): δ: 1.26 (d, J=7.03 Hz, 6 H), 2.17 (s, 3 H), 2.49 (m, 1 H), 3.83 (s, 3 H), 6.71 (dd, J=2.05 Hz, 8.21 Hz, 1 H), 7.02 (d, J=7.91 Hz, 1 H), 7.11 (bs, 1 H), 7.47 (d, J=1.76 Hz, 1 H).

reactant | N-(3-hydroxy-4-methyl-phenyl)-isobutyramide | 33.5 mmol, 6.48 g | OC=1C=C(C=CC1C)NC(C(C)C)=O | C11H15NO2
reactant | potassium carbonate | 100.5 mmol, 13.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 100.5 mmol, 14.3 g | CI | CH3I
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | N-(3-methoxy-4-methyl-phenyl)-isobutyramide | 6.6 g, 95% | COC=1C=C(C=CC1C)NC(C(C)C)=O | C12H17NO2
